US07579449B2
(5-bromo-2-fluoro-phenyl)-{4-[(triisopropylsilyl)-ethynyl]-phenyl}methanol
33.8 ml of a 1.6 M solution of n-butyllithium in hexane are added dropwise under argon to a solution of 17.4 g 1-bromo-4-triisopropylsilylethynyl-benzene in 120 ml dry tetrahydrofuran chilled to −78° C. The solution is stirred for 1 h at −70° C. Then 10.8 g 5-bromo-2-fluoro-benzaldehyde dissolved in 30 ml of tetrahydrofuran are added dropwise over 15 min. The resulting solution is left in the cooling bath to warm up overnight to ambient temperature. Then water is added and the mixture is extracted with ethyl acetate. The combined organic phase are dried over sodium sulphate, and the solvent is removed. The residue is purified through silica gel (cyclohexane/ethyl acetate 4:1).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-bromo-4-triisopropylsilylethynyl-benzene | 17.4 g | BrC1=CC=C(C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C | C17H25BrSi
reactant | 5-bromo-2-fluoro-benzaldehyde | 10.8 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (5-bromo-2-fluoro-phenyl)-{4-[(triisopropylsilyl)-ethynyl]-phenyl}methanol | BrC=1C=CC(=C(C1)C(O)C1=CC=C(C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C)F | C24H30BrFOSi
